US08981084B2
1-(5-Bromothiophen-2-yl)-2,2,2-trifluoroethanone (0.8 g, 3.09 mmol) and 3-carboxyphenylboronic acid (0.5 g, 3.01 mmol) were dissolved in DMF (10 mL) and the solution was purged with argon for 10 min. 2M aqueous solution of Na2CO3 (0.65 g, 6.17 mmol) and catalytic Pd(PPh3)4 (178 mg, 0.15 mmol) were added to the reaction mixture and heated to 90° C. for 10 h. The reaction mixture was cooled to room temperature, diluted with water and acidified to pH˜6 with 1.5 N HCl. The crude product was extracted with EtOAc. The combined extracts were dried over anhydrous Na2SO4 and concentrated under reduced pressure. The crude product was triturated with diethyl ether to get 3-(5-(2,2,2-trifluoroacetyl)thiophen-2-yl)benzoic acid (700 mg, yield 79%). 1H NMR (400 MHz, DMSO-d6) δ 13.35 (br s, 1H), 8.31-8.30 (m, 1H), 8.16-8.11 (m, 2H), 8.04-8.02 (d, J=7.6 Hz, 1H), 7.93-7.92 (d, J=4.3 Hz, 1H), 7.67-7.63 (t, J=7.8 Hz, 1H). MS (ESI) m/z: Calculated for C13H7F3O3S: 300.01. found: 299.0 (M−H)−

reactant | 1-(5-Bromothiophen-2-yl)-2,2,2-trifluoroethanone | 3.09 mmol, 0.8 g | BrC1=CC=C(S1)C(C(F)(F)F)=O | C6H2BrF3OS
reactant | 3-carboxyphenylboronic acid | 3.01 mmol, 0.5 g | C(=O)(O)C=1C=C(C=CC1)B(O)O | C7H7BO4
reactant | Na2CO3 | 6.17 mmol, 0.65 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 1.5 N | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.15 mmol, 178 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(5-(2,2,2-trifluoroacetyl)thiophen-2-yl)benzoic acid | 700 mg, yield 79% | FC(C(=O)C1=CC=C(S1)C=1C=C(C(=O)O)C=CC1)(F)F | C13H7F3O3S
